US09388149B2
A solution of 5.96 g (24.4 mmol, 1 eq) of 6-chloro-2-hydroxy-N,N-dimethyl-3-nitrobenzamide in 100 ml of methanol in the presence of 0.58 g of platinum oxide hydrate was stirred at hydrogen atmospheric pressure for 3 hours. The reaction medium was filtered through celite and the filtrate was concentrated. The solution obtained was added dropwise to 8.0 g (48.8 mmol, 2 eq) of 3,4-diethoxy-3-cyclobutene-1,2-dione in solution in 50 ml of methanol. The reaction medium was stirred at ambient temperature for 18 hours. The solvent was evaporated off and the residue was chromatographed on silica gel (300 g prepacked column, eluent heptane/acetone, from 50 to 100% of acetone). 4.42 g of 6-chloro-3-(2-ethoxy-3,4-dioxocyclobut-1-enylamino)-2-hydroxy-N,N-dimethylbenzamide were obtained in the form of a beige solid. Yield=54%.

reactant | 6-chloro-2-hydroxy-N,N-dimethyl-3-nitrobenzamide | 24.4 mmol, 5.96 g, 1 eq | ClC1=CC=C(C(=C1C(=O)N(C)C)O)[N+](=O)[O-] | C9H9ClN2O4
reactant | hydrogen | [H][H] | H2
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 48.8 mmol, 8.0 g, 2 eq | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
catalyst | platinum oxide hydrate | 0.58 g | O.[Pt]=O
product | 6-chloro-3-(2-ethoxy-3,4-dioxocyclobut-1-enylamino)-2-hydroxy-N,N-dimethylbenzamide | 4.42 g, Yield=54% | ClC1=CC=C(C(=C1C(=O)N(C)C)O)NC1=C(C(C1=O)=O)OCC | C15H15ClN2O5
